### PR TITLE
[Merged by Bors] - feat(MvPowerSeries.Basic): compute coefficients of powers of MvPowerSeries

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
`MvPowerSeries.coeff_pow` computes the coefficients of powers of power series

`coeff_eq_zero_of_constantCoeff_nilpotent` shows that some coefficients of some powers of a power series are zero when the constant coefficient is nilpotent

CoAuthored with María Inés de Frutos Fernández

---

- [x] depends on: #14875 
 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 1]
```diff
@@ -719,6 +720,82 @@ theorem coeff_prod [DecidableEq σ]
...
+[bourbaki1981], chap. 4, §4, n°2, proposition 3 -/
+theorem coeff_eq_zero_of_constantCoeff_nilpotent [DecidableEq σ]
+    (f : MvPowerSeries σ R) (m : ℕ) (hf : constantCoeff σ R f ^ m = 0)
+    (d : σ →₀ ℕ) (n : ℕ) (hn : m + degree d ≤ n) :
+    coeff R d (f ^ n) = 0 := by
+  rw [coeff_pow]
+  apply sum_eq_zero
+  intro k hk
+  rw [mem_finsuppAntidiag] at hk
+  set s := (range n).filter fun i => k i = 0 with hs_def
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:769]:
```suggestion
  set s := (range n).filter fun i ↦ k i = 0 with hs_def
```

**Review by faenuccio — COMMENTED** [review]
Thanks! Some comments below, but I have not finished looking at the proof of `coeff_eq_zero_of_constantCoeff_nilpotent` yet.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 2]
```diff
@@ -719,6 +720,82 @@ theorem coeff_prod [DecidableEq σ]
...
+    exact Finset.single_le_sum (fun _ _ ↦ zero_le _) (mem_support_iff.mpr (Nat.not_eq_zero_of_lt hx))
+  · intro hd
+    rw [hd]
+    simp only [degree_zero]
+
+/-- Coefficients of powers of multivariate power series
+[bourbaki1981], chap. 4, §4, n°2, proposition 3 -/
+theorem coeff_eq_zero_of_constantCoeff_nilpotent [DecidableEq σ]
+    (f : MvPowerSeries σ R) (m : ℕ) (hf : constantCoeff σ R f ^ m = 0)
+    (d : σ →₀ ℕ) (n : ℕ) (hn : m + degree d ≤ n) :
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:760]: OK.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 3]
```diff
@@ -719,6 +720,82 @@ theorem coeff_prod [DecidableEq σ]
...
+    intro hx
+    apply Nat.not_add_one_le_zero 0
+    rw [zero_add, ← hd]
+    apply le_trans hx
+    exact Finset.single_le_sum (fun _ _ ↦ zero_le _) (mem_support_iff.mpr (Nat.not_eq_zero_of_lt hx))
+  · intro hd
+    rw [hd]
+    simp only [degree_zero]
+
+/-- Coefficients of powers of multivariate power series
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:756]: I can, but the preamble has no results at all, so this would look a bit awkward.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 4]
```diff
@@ -719,6 +720,82 @@ theorem coeff_prod [DecidableEq σ]
       simp only [add_right_inj] at huv
       exact h rfl huv.symm
 
+/-- The `d`th coefficient of a finite product over `s` of power series
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:723]: nothing…

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 5]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+    {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) :
+    coeff R d (f ^ n) = 0 := by
+  rw [coeff_pow]
+  apply sum_eq_zero
+  intro k hk
+  rw [mem_finsuppAntidiag] at hk
+  set s := (range n).filter fun i ↦ k i = 0 with hs_def
+  have hs : s ⊆ range n := filter_subset _ _
+  have hs' : ∀ i ∈ s, coeff R (k i) f = constantCoeff σ R f := by
+    intro i hi
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:771]:
```suggestion
  have hs' (i : ℕ) (hi : i ∈ s) : coeff R (k i) f = constantCoeff σ R f := by
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 6]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+      <| single_le_sum (fun _ _ ↦ zero_le _) (mem_support_iff.mpr <| Nat.not_eq_zero_of_lt hx)
+  · simp only [hd, degree_zero]
+
+/-- Vanishing of coefficients of powers of multivariate power series
+when the constant coefficient is nilpotent
+[N. Bourbaki, *Algebra {II}*, Chapter 4, §4, n°2, proposition 3][bourbaki1981] -/
+theorem coeff_eq_zero_of_constantCoeff_nilpotent [DecidableEq σ]
+    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0)
+    {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) :
+    coeff R d (f ^ n) = 0 := by
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:763]:
```suggestion
    {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) : coeff R d (f ^ n) = 0 := by
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 7]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+  intro k hk
+  rw [mem_finsuppAntidiag] at hk
+  set s := (range n).filter fun i ↦ k i = 0 with hs_def
+  have hs : s ⊆ range n := filter_subset _ _
+  have hs' : ∀ i ∈ s, coeff R (k i) f = constantCoeff σ R f := by
+    intro i hi
+    simp only [hs_def, mem_filter] at hi
+    rw [hi.2, coeff_zero_eq_constantCoeff]
+  have hs'' : ∀ i ∈ s, k i = 0 := by
+    intro i hi
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:775]:
```suggestion
  have hs'' (i : ℕ) (hi : i ∈ s) : k i = 0 := by
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 8]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+theorem coeff_eq_zero_of_constantCoeff_nilpotent [DecidableEq σ]
+    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0)
+    {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) :
+    coeff R d (f ^ n) = 0 := by
+  rw [coeff_pow]
+  apply sum_eq_zero
+  intro k hk
+  rw [mem_finsuppAntidiag] at hk
+  set s := (range n).filter fun i ↦ k i = 0 with hs_def
+  have hs : s ⊆ range n := filter_subset _ _
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:769]:
```suggestion
```
Upon replacing the `rw` below with `rw [← prod_sdiff (s₁ := s) (filter_subset _ _)]` (which I suggest) this line can be removed, it is used only once.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 9]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+  have hs' : ∀ i ∈ s, coeff R (k i) f = constantCoeff σ R f := by
+    intro i hi
+    simp only [hs_def, mem_filter] at hi
+    rw [hi.2, coeff_zero_eq_constantCoeff]
+  have hs'' : ∀ i ∈ s, k i = 0 := by
+    intro i hi
+    simp only [hs_def, mem_filter] at hi
+    rw [hi.2]
+  rw [← prod_sdiff hs]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:778]:
```suggestion
  rw [← prod_sdiff (s₁ := s) (filter_subset _ _)]
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 10]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+  refine' mul_eq_zero_of_right _ _
+  rw [prod_congr rfl hs', prod_const]
+  suffices m ≤ s.card by
+    obtain ⟨m', hm'⟩ := Nat.exists_eq_add_of_le this
+    rw [hm', pow_add, hf, MulZeroClass.zero_mul]
+  rw [← Nat.add_le_add_iff_right, add_comm s.card, Finset.card_sdiff_add_card_eq_card hs]
+  simp only [card_range]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:785]:
```suggestion
  rw [← Nat.add_le_add_iff_right, add_comm s.card, Finset.card_sdiff_add_card_eq_card hs, card_range]
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 11]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+  apply le_trans _ hn
+  simp only [add_comm m, Nat.add_le_add_iff_right]
+  rw [← hk.1, ← sum_sdiff hs]
+  rw [sum_eq_zero (s := s) hs'', add_zero]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:789]:
```suggestion
  simp only [add_comm m, Nat.add_le_add_iff_right, ← hk.1, ← sum_sdiff hs, 
    sum_eq_zero (s := s) hs'', add_zero]
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 12]
```diff
@@ -719,6 +720,81 @@ theorem coeff_prod [DecidableEq σ]
...
+  · ext x
+    simp only [Finsupp.coe_zero, Pi.zero_apply, ← Nat.lt_one_iff, ← not_le]
+    intro hx
+    apply Nat.not_add_one_le_zero 0
+    rw [zero_add, ← hd]
+    exact hx.trans
+      <| single_le_sum (fun _ _ ↦ zero_le _) (mem_support_iff.mpr <| Nat.not_eq_zero_of_lt hx)
+  · simp only [hd, degree_zero]
+
+/-- Vanishing of coefficients of powers of multivariate power series
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:757]: I agree that there is nothing in the premble, but I find it a pity. Since you went through the whole file, adding something there would be valuable (both about things you are adding in this PR and about other interesting results that currently do not appear). I believe the general doc of mathlib is in a poor state and I find it a good idea to improve it little by little as file are improved/refactored.

**Review by faenuccio — COMMENTED** [review]
Do we alredy have in mathlib the same result (a polynomial is nilpotent iff all its coefficients are)? And what about the fact that a polynomial is a unit iff the constant coefficient is and all the other coefficients are nilpotent?

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:771]: I am pretty sure we don't. I keep it as a small project for students... but maybe it's time to do it.

**Comment by riccardobrasca** [comment]
> Do we alredy have in mathlib the same result (a polynomial is nilpotent iff all its coefficients are)? And what about the fact that a polynomial is a unit iff the constant coefficient is and all the other coefficients are nilpotent?

I am pretty sure we don't have the result for nilpotent poly (I kept it as a small project for students, but maybe it's time to do it). We have the characterization of units and zero-divisors though (done by students of mine :D)

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:757]: I agree with you on principle, but I am leaving to vacation tomorrow morning…

**Comment by AntoineChambert-Loir** [comment]
Regarding nilpotent/zero divisors power series : they are studied in the same paper by Fields. 
It would be nice to formalize them, but for zero divisors one needs the primary decomposition and the hypothesis that the ring is noetherian.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean]: We use it 3 or 4 times…

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean]: but that works.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 13]
```diff
@@ -719,6 +720,76 @@ theorem coeff_prod [DecidableEq σ]
...
+theorem coeff_pow [DecidableEq σ] (f : MvPowerSeries σ R) {n : ℕ} (d : σ →₀ ℕ) :
+    coeff R d (f ^ n) =
+      ∑ l in finsuppAntidiag (Finset.range n) d,
+        ∏ i in Finset.range n, coeff R (l i) f := by
+  suffices f ^ n = (Finset.range n).prod fun _ ↦ f by
+    rw [this, coeff_prod]
+  rw [Finset.prod_const, card_range]
+
+/-- The degree of a monomial. -/
+def degree (d : σ →₀ ℕ) : ℕ := d.sum fun _ ↦ id
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:734]: This is literally [MvPolynomial.degree](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/MvPolynomial/Homogeneous.html#MvPolynomial.degree) isn't it? Note that even if it is the `MvPolynomial` it is really about `finsupp`. We should really avoid duplicating the API here.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 14]
```diff
@@ -719,6 +720,76 @@ theorem coeff_prod [DecidableEq σ]
...
+@[simp]
+theorem degree_zero : degree (0 : σ →₀ ℕ) = 0 := by
+  simp only [degree, sum_zero_index]
+
+theorem degree_add (d d' : σ →₀ ℕ) :
+    degree (d + d') = degree d + degree d' := by
+  classical
+  simp only [degree, mem_union, mem_support_iff, ne_eq, id_eq, implies_true, sum_add_index]
+
+theorem degree_eq_zero_iff (d : σ →₀ ℕ) : degree d = 0 ↔ d = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:745]: Indeed `exact MvPolynomial.degree_eq_zero_iff _` proves this (after importing it). The really good thing to do would be to extract all this results to a new file, but if everything you need already exists in the `MvPolynomial` you can just use it.

**Review by riccardobrasca — CHANGES_REQUESTED** [review]

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:734]: I did that already, in another PR!

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:734]: #14875

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:734]: Can you make this PR dependent on the other one?

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean]: Done.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean]: See above.

**Comment by AntoineChambert-Loir** [comment]
I think I did all changes you suggested, but I don't understand why github still marks "1 requested change"

**Comment by jcommelin** [comment]
@AntoineChambert-Loir I think the "1 changes requested" measures the number of reviewers that have "requested changes" using this github feature. And only that reviewer can remove the "requested changes" when they indicate they are happy.
But `bors` doesn't care, so this metric isn't formally blocking anything.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
